.subckt ACS712 I+ I- Filter Out V+ V-
.param gain=185m; 185m -05B, 100m -20A, 66m -30A
V1 I+ I- 0
F1 V- 2 V1 {gain}
T1 1 V- 2 V- Td=1u Zo=1
R1 2 V- 1
R2 Filter 2 1k7
G1 V- 3 Filter V- 1
C1 3 V- 1µ3 Rpar=1
R3 Out 3 50
G2 V- 3 V+ V- 0.5
R4 V+ V- 2k
.ends ACS712